US07935716B2
161 mg of ethyl 5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate and 51 mg of 3-amino-1,2,4-triazole were added to 1.5 ml of bromobenzene, then, the mixture was stirred for 5 hours under heat refluxing condition. The reaction mixture was cooled to room temperature, then, hexane was added to this and the resultant mixture was allowed to stand still. The resulting solid was collected by filtration, and washed with a mixture of t-butyl methyl ether and n-hexane and dried to obtain 153 mg of 5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-N-(1,2,4-triazol-3-yl)-1,2-dihydropyridine-3-carboxamide (hereinafter, referred to as present compound 29) represented by the formula:

reactant | ethyl 5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate | 161 mg | ClC=1C(=C(C(N(C1C)C)=O)C(=O)OCC)O | C10H12ClNO4
reactant | 3-amino-1,2,4-triazole | 51 mg | NC1=NNC=N1 | C2H4N4
reactant | bromobenzene | 1.5 ml | BrC1=CC=CC=C1 | C6H5Br
solvent | hexane | CCCCCC | C6H14
product | 5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-N-(1,2,4-triazol-3-yl)-1,2-dihydropyridine-3-carboxamide | 153 mg | ClC=1C(=C(C(N(C1C)C)=O)C(=O)NC1=NNC=N1)O | C10H10ClN5O3
